US07696210B2
1-(2,2,2-Trifluoro-1-trifluoromethyl-ethyl)-4-vinyl-benzene
Crude 1-bromo-4-(2,2,2-trifluoro-1-trifluoromethyl-ethyl)-benzene, (approximately 100 mg of starting material, contaminated with diglyme) was dissolved in toluene (3 ml) in a sealed tub under a nitrogen atmosphere. Tetrakispalladium (15 mg, 0.013 mmol) and LiCl (42 mg, 1 mmol) were added, followed by the addition of tributylvinyltin (155 mg, 0.49 mmol).The reaction mixture was heated to 80° C. for 18 h, and then purified by silica gel column chromatography (100% hexane -2% ethyl acetate/hexane) to yield the title product, whose volatility made yield calculations impossible. 1H NMR (CDCl3) δ=7.49 (d, J=8.4 Hz, 2H), 7.40 (d, J=8.4 Hz, 2H), 6.71 (dd, J=10.9, 17.6 Hz, 1H), 5.82 (d, J=17.7, 1H), 5.33 (d, J=10.9 Hz, 1H), 4.06 (septet, JH,F=8.3 Hz,1H).

reactant | 1-bromo-4-(2,2,2-trifluoro-1-trifluoromethyl-ethyl)-benzene | BrC1=CC=C(C=C1)C(C(F)(F)F)C(F)(F)F | C9H5BrF6
reactant | diglyme | COCCOCCOC | C6H14O3
reactant | LiCl | 1 mmol, 42 mg | [Li+].[Cl-]
reactant | tributylvinyltin | 0.49 mmol, 155 mg | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,2,2-Trifluoro-1-trifluoromethyl-ethyl)-4-vinyl-benzene | FC(C(C(F)(F)F)C1=CC=C(C=C1)C=C)(F)F | C11H8F6
